US04269788
18.6 g. of methanesulfonyl chloride are added dropwise while stirring and cooling with ice to a solution of 27 g. of 1-phenyl-2,5-cyclohexadien-1-ethanol in 270 ml. of absolute pyridine. After stirring at room temperature for 3 hours, about 250 ml. of water are added. The separated product is filtered off under suction, washed with water and dried. The crude product is recrystallized from benzene/hexane, there being obtained methansulfonic acid 2-(1-phenyl-2,5-cyclohexadien-1-yl)-ethyl ester as colorless crystals of melting point 64°-65° C.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-phenyl-2,5-cyclohexadien-1-ethanol | C1(=CC=CC=C1)C1(C=CCC=C1)CCO | C14H16O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | methansulfonic acid 2-(1-phenyl-2,5-cyclohexadien-1-yl)-ethyl ester | C1(=CC=CC=C1)C1(C=CCC=C1)CCOS(=O)(=O)C | C15H18O3S
